US09315495B2
The compound was synthesized as in Example 3.1 using 6-bromobenzothiophene-2-carbaldehyde (50 mg, 0.21 mmol) in place of 5-bromo-2-formylfuran and potassium (3,3,3-trifluoro)propyltrifluoroborate (63 mg, 0.31 mmol) in place of hexylboronic acid to give 6-(3,3,3-trifluoropropyl)benzothiophene-2-carbaldehyde (43 mg, 80%). Used without further characterization.

reactant | 6-bromobenzothiophene-2-carbaldehyde | 0.21 mmol, 50 mg | BrC1=CC2=C(C=C(S2)C=O)C=C1 | C9H5BrOS
reactant | potassium (3,3,3-trifluoro)propyltrifluoroborate | 0.31 mmol, 63 mg | FC(CC[B-](F)(F)F)(F)F.[K+]
product | 6-(3,3,3-trifluoropropyl)benzothiophene-2-carbaldehyde | 43 mg, 80% | FC(CCC1=CC2=C(C=C(S2)C=O)C=C1)(F)F | C12H9F3OS
